US07618996B2
Preparation of Intermediate 7-{4-[(2-Cyclopropyl-ethylamino)-methyl]-2-fluoro-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one (I-1c-2)
4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzaldehyde (I-1b-1: 24.8 g) and 2-cyclopropyl-ethylamine (6.2 g) were combined in 1,2-dichloroethane (1.0 L). After stirring at ambient temperature for 1 hour, sodium triacetoxyborohydride (83 g) was added to the solution. After stirring overnight, the reaction mixture was treated with an aqueous 2 N potassium hydroxide solution, the organic phase was separated, dried over magnesium sulfate, filtered, and evaporated to provide the title compound (I-1c-2).

reactant | 4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzaldehyde | 24.8 g | CC1(OC2=C(C(O1)=O)C=CC(=C2)OC2=C(C=C(C=O)C=C2)F)C | C17H13FO5
reactant | 2-cyclopropyl-ethylamine | 6.2 g | C1(CC1)CCN | C5H11N
reactant | sodium triacetoxyborohydride | 83 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium hydroxide | 2 N | [OH-].[K+]
solvent | 1,2-dichloroethane | 1.0 L | ClCCCl | C2H4Cl2
product | 7-{4-[(2-Cyclopropyl-ethylamino)-methyl]-2-fluoro-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one | C1(CC1)CCNCC1=CC(=C(OC2=CC3=C(C(OC(O3)(C)C)=O)C=C2)C=C1)F | C22H24FNO4
